US07351733B2
N-(4,6-Dimethoxypyrimidin-2-yl)-6-methyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride was prepared from 6-methyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 2-chloro-4,6-dimethoxypyrimidine in a similar manner as described in Example 22 to give 12 mg (8%) of a redish solid. 1H-NMR (CDCl3): δ 10.4 (s, 1H), 7.40 (s, 1H), 7.13 (m, 2H), 6.82 (s, 1H), 5.46 (d, 1H), 5.30 (s, 1H), 4.08 (s, 6H), 2.65 (m, 2H), 2.33 (s, 3H), 2.06 (m, 2H), 1.80 (m, 2H); MS m/z 339 (M+1).

reactant | 6-methyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine | CC=1C=C2C=3CCCC(C3NC2=CC1)N | C13H16N2
reactant | 2-chloro-4,6-dimethoxypyrimidine | ClC1=NC(=CC(=N1)OC)OC | C6H7ClN2O2
product | N-(4,6-Dimethoxypyrimidin-2-yl)-6-methyl-2,3,4,9-tetrahydro-1H-carbazol-1-amine hydrochloride | Cl.COC1=NC(=NC(=C1)OC)NC1CCCC=2C3=CC(=CC=C3NC12)C | InChI=1S/C19H22N4O2.ClH/c1-11-7-8-14-13(9-11)12-5-4-6-15(18(12)20-14)21-19-22-16(24-2)10-17(23-19)25-3;/h7-10,15,20H,4-6H2,1-3H3,(H,21,22,23);1H
